US06245790B1
To a solution of (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl trifluoromethanesulfonate (1.17 g) in dichloromethane (100 ml) were added 5-(2-boronophenyl)-2-(triphenylmethyl)-2H-tetrazole (1.16 g), tetrakis(triphenylphosphine)palladium (600 mg), and K2CO3 (630 mg) in a mixture of DMF and water. After being stirred for 8 hours at 100° C., the solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give (S)-2-(4,5-diphenyloxazol-2-yl)-1-{3-{2-[2-(triphenyl-methyl)tetrazol-5-yl]phenyl}benzyl}-2-cyclohexene (0.83 g).

reactant | (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl trifluoromethanesulfonate | 1.17 g | FC(S(=O)(=O)OC1=CC(=CC=C1)C[C@H]1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C29H24F3NO4S
reactant | 5-(2-boronophenyl)-2-(triphenylmethyl)-2H-tetrazole | 1.16 g | B(O)(O)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H21BN4O2
reactant | K2CO3 | 630 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 600 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-(4,5-diphenyloxazol-2-yl)-1-{3-{2-[2-(triphenyl-methyl)tetrazol-5-yl]phenyl}benzyl}-2-cyclohexene | 0.83 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC1=CC(=CC=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C54H43N5O
